US07129239B2
Preparation of 3-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-6-morpholin-4-yl-3-azabicyclo[3.1.0]hexane-6-Carboxylic Acid Amide (30A-1)
A mixture of 3-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-6-morpholin-4-yl-3-azabicyclo[3.1.0]hexane-6-carbonitrile 29A-8 (28 mg, 0.052 mmol) in concentrated H2SO4 (0.6 ml) was heated at 200° C. for two hours. After the reaction mixture was allowed to cool to room temperature and stir overnight, it was cooled in an ice bath and then carefully quenched with 5 M aqueous NaOH to pH 11. The mixture was extracted with ethyl acetate and then the combined organic layers were washed with brine, dried (MgSO4) and concentrated, in vacuo. The residue was purified on a Biotage™ Flash 12S column using 0–6% methanol in methylene chloride as eluant to give, after trituration from methylene chloride/hexanes, title compound 30A-1 (24 mg, 83%): +ESI MS (M+1) 550.4; 1H NMR (400 MHz, CD2Cl2) δ 8.27 (s, 1H), 7.52–7.49 (m, 1H), 7.44–7.32 (m, 5H), 7.20 (d, J=8.7 Hz, 2H), 5.54 (s, 1H), 5.47 (s, 1H), 5.03 (d, J=12.0 Hz, 1H), 4.37 (d, J=12.0 Hz, 1H), 3.97 (br d, J=9.1 Hz, 1H), 3.68–3.55 (m, 5H), 2.73–2.63 (m, 4H), 2.01 (br s, 1H), 1.96 (br s, 1H).

reactant | 3-[9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-6-morpholin-4-yl-3-azabicyclo[3.1.0]hexane-6-carbonitrile | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CC2C(C2C1)(C#N)N1CCOCC1 | C27H23Cl2N7O
reactant | H2SO4 | 0.6 ml | OS(=O)(=O)O | H2O4S
product | 3-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-6-morpholin-4-yl-3-azabicyclo[3.1.0]hexane-6-Carboxylic Acid Amide | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CC2C(C2C1)(C(=O)N)N1CCOCC1 | C27H25Cl2N7O2
